### ISSUE TITLE
Can't use `Sum.components` or `Prod.components`

### ISSUE THREAD

**Issue by aris-uu** [emilyriehl/ReintroductionToProofs#11]
In Level 8 of Coproduct World, using

```lean
let y := Sum.components x
```

yields the error 

```lean
Unknown constant `Sum.components`
malformed MsgEmbed: {"widget":{"wi":{"props":{"explanationUrl":"https://lean-lang.org/doc/reference/4.23.0/find/?domain=Manual.errorExplanation&name=lean.unknownIdentifier","code":"lean.unknownIdentifier"},"javascriptHash":"14043757810349425459","id":"Lean.errorDescriptionWidget"},"alt":{"tag":[{"expr":{"text":""}},{"text":""}]}}}
```

even though it is available in the definitions tab

**Comment by aris-uu** [comment]
```lean
def Sum.components {A B C : Type} : (A ⊕ B → C) → (A → C) × (B → C) :=
  fun f ↦ ⟨fun a ↦ f (Sum.inl a), fun b ↦ f (Sum.inr b)⟩

def Prod.components {X A B : Type} : (X → A × B) → (X → A) × (X → B) :=
  fun f ↦ ⟨fun x ↦ (f x).1, fun x ↦ (f x).2⟩

example {A B C D : Type} : ((A ⊕ B → C × D) → (A → C) × (B → C) × (A → D) × (B → D)) × ((A → C) × (B → C) × (A → D) × (B → D) → (A ⊕ B → C × D)) := by
  constructor
  . intro x
    have ⟨f, g⟩ := Sum.components x
    have ⟨f1, f2⟩ := Prod.components f
    have ⟨g1, g2⟩ := Prod.components g
    exact ⟨f1, g1, f2, g2⟩
  . intro h x
    rcases h with ⟨f1, g1, f2, g2⟩
    rcases x with a | b
    . exact ⟨f1 a, f2 a⟩
    . exact ⟨g1 b, g2 b⟩
```

This would be a minimal example I think ([Lean Live link](https://live.lean-lang.org/#codez=CYUwZgBAygrgtgOgMYHs4AcUDsRYC4DOEA3gIIQBCEAwhAFwQAqAnuiAL70QAU5gqUSUIgJMIaASmE9yI6uIDrPKtPF0AvACgIEMDCxaIgMsIIgC/JtugIYG93WIgCWWADYQzogDRadEAEaXI1+Aj2AE7eooCX5GpqoJAACkEowMhomDj4RMQAGhDkVAwsbJwM3Fki5PIU4iLFEqRyPCWUyuqapnqGJp4AHpbckJ2iCACM7q3dhr0Q/QgATBFqIJ1mGA4gJDk0EAAiXPkcXNy8EAKKG/KblZISMhDy3CfXt1JbdXcS5y+HSjcKVy9P599XiIAVV+IJpN93vQVN5mBoIKgsAQ8EEYEg8CggvCEBB7CiUJN4ZoABZmABuqxM7gA5mFodAAqgMNhcIRCZoSeTKWBhlpZvS4gkkszUmywESIKSKcZqbzqfzVBBBYkmSlWURqRKFmZ0cYeTTeWBpjTZtjcfh4pL2RygkgzAQQERiRAAO62PDOkxyw3GiDyiIciC2+2Oyau93OiwAH28Epx2t1XucI2mzgDHPji0Tsu8Ju8czUQA))
